US09085583B2
A mixture of 2-chloro-4-hydroxy-6-methylnicotinonitrile (2.0 g, 11.9 mmol), sodium methanolate (3.2 g, 59.5 mmol) in methanol (20 mL) was stirred at 60° C. overnight under N2. The mixture was quenched with HCl (1M) to pH=2. It was partitioned between water (500 mL) and ethyl acetate (500 mL), the organic layer was dried and concentrated to afford 4-hydroxy-2-methoxy-6-methylnicotinonitrile (2.0 g brown solid, 100% yield).

reactant | 2-chloro-4-hydroxy-6-methylnicotinonitrile | 11.9 mmol, 2.0 g | ClC1=C(C#N)C(=CC(=N1)C)O | C7H5ClN2O
reactant | sodium methanolate | 59.5 mmol, 3.2 g | C[O-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-hydroxy-2-methoxy-6-methylnicotinonitrile | 2.0 g, 100% yield | OC1=CC(=NC(=C1C#N)OC)C | C8H8N2O2
